US08003662B2
Step C: Preparation of N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide:
Prepared from N-(4-fluorophenyl)-N-(4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)cyclopropane-1,1-dicarboxamide (155 mg, 0.24 mmol) and N,N-diethylprop-2-yn-1-amine (24 mg, 0.21 mmol) according to the procedure for Example 6, Step B. The crude product was purified on a Horizon reverse phase using Biotage 12M C18 column. The crude was loaded to the samplet with EtOAc and dried under vacuum. Product eluted at 55-75% acetonitrile and was obtained as a white powder (32 mg, 24%). 1H NMR (CDCl3, 400 MHz) δ 9.58 (s, 1H), 8.94 (s, 1H), 8.46 (d, J=5 Hz, 1H), 7.61 (d, J=8.6 Hz, 2H), 7.54 (s, 1H), 7.47 (m, 2H), 7.14 (d, J=9.0 Hz, 2H), 7.03 (t, J=8.6 Hz, 2H), 6.55 (d, J=5 Hz, 1H), 3.70 (s, 2H), 2.65 (q, J=7, 14 Hz, 4H), 1.71 (m, 4H), 1.13 (t, J=7.4 Hz, 6H) (350 mg, 31%). LRMS (ESI pos) m/e 557 (M+1).

reactant | N-(4-fluorophenyl)-N-(4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)cyclopropane-1,1-dicarboxamide | 0.24 mmol, 155 mg | FC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)OC1=C2C(=NC=C1)C=C(S2)I | C24H17FIN3O3S
reactant | N,N-diethylprop-2-yn-1-amine | 0.21 mmol, 24 mg | C(C)N(CC#C)CC | C7H13N
product | N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 32 mg, 24% | C(C)N(CC#CC1=CC2=NC=CC(=C2S1)OC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F)CC | C31H29FN4O3S
